US05395834
Stage A: 1-[(3,4-dihydro-6-acetoxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)carbonyl]piperazine
2.7 g (0. 009 mol) of 3,4-dihydro-6-acetoxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-carboxylic acid are dissolved in 200 cm3 of anhydrous dichloroethane. 1 eq of carbonyldiimidazole (0.009 mol), i.e. 1.5 g, is added. The mixture is left to stir for 1 h and then 7.5 g of piperazine (0.009 mol) dissolved in 200 cm3 of dichlorcethane are added. The oil obtained after evaporation is purified on a silica column by eluting with a CH2Cl2 /ethanol/NH4OH (88/10/2) mixture and crystallized from isopropyl ether.

reactant | 3,4-dihydro-6-acetoxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-carboxylic acid | 2.7 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C(=O)O)C)C1C)C)C | C16H20O5
reactant | carbonyldiimidazole | 0.009 mol, 1 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | piperazine | 0.009 mol, 7.5 g | N1CCNCC1 | C4H10N2
solvent | dichloroethane | 200 cm3 | ClC(C)Cl | C2H4Cl2
product | 1-[(3,4-dihydro-6-acetoxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)carbonyl]piperazine | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C)C(=O)N2CCNCC2)C1C)C)C | C20H28N2O4
